### ISSUE TITLE
`grind?` producing failing suggestions

### ISSUE THREAD

**Issue by kim-em** [leanprover/lean4#12185]
This example comes from a `grind` failure resulting from https://github.com/leanprover/lean4/pull/12170, that I have had trouble fixing. (Run through lean-minimizer.)

```
import Lean.Elab.Tactic.ElabTerm

section Mathlib.Data.Set.Defs

def Set (α : Type) := α → Prop

instance : Membership α (Set α) :=
  sorry

end Mathlib.Data.Set.Defs

section Mathlib.Data.FunLike.Basic

class DFunLike (F : Sort _) (α : outParam (Sort _)) (β : outParam <| α → Sort _) where
  coe : F → ∀ a : α, β a

abbrev FunLike F α β := DFunLike F α fun _ => β

variable {F α β} [i : DFunLike F α β]

instance hasCoeToFun : CoeFun F (fun _ ↦ ∀ a : α, β a) where
  coe := @DFunLike.coe _ _ β _

end Mathlib.Data.FunLike.Basic

section Mathlib.Order.Defs.PartialOrder

class Preorder (α : Type) extends LE α, LT α where
  lt := fun a b => a ≤ b ∧ ¬b ≤ a

class PartialOrder (α : Type) extends Preorder α where

end Mathlib.Order.Defs.PartialOrder

section Mathlib.Data.FunLike.Equiv

class EquivLike (E : Sort _) (α β : outParam (Sort _)) where
  coe : E → α → β

namespace EquivLike

variable {E F α β γ : Sort _} [EquivLike E α β] [EquivLike F β γ]

instance toFunLike : FunLike E α β where
  coe := (coe : E → α → β)

end EquivLike

end Mathlib.Data.FunLike.Equiv

section Mathlib.Order.Defs.LinearOrder

section LinearOrder

class LinearOrder (α : Type)  extends PartialOrder α, Min α, Max α where
  le_total (a b : α) : a ≤ b ∨ b ≤ a
  toDecidableLE : DecidableLE α
  min := fun a b => if a ≤ b then a else b
  max := fun a b => if a ≤ b then b else a

variable [LinearOrder α] {a b c : α}

attribute [instance] LinearOrder.toDecidableLE

@[grind =]
theorem min_def (a b : α) : min a b = if a ≤ b then a else b := sorry

end LinearOrder

end Mathlib.Order.Defs.LinearOrder

section Mathlib.Algebra.Group.Defs

class MulOne (M : Type) extends One M, Mul M

class MulOneClass (M : Type) extends MulOne M where

class Monoid (M : Type)  extends MulOneClass M where

instance Monoid.toNatPow {M : Type} [Monoid M] : Pow M Nat :=
  sorry

class DivInvMonoid (G : Type)  extends Monoid G, Inv G where

class Group (G : Type) extends DivInvMonoid G where

end Mathlib.Algebra.Group.Defs

section Mathlib.Logic.Equiv.Defs

structure Equiv (α : Sort _) (β : Sort _) where
  toFun : α → β
  invFun : β → α

infixl:25 " ≃ " => Equiv

instance : EquivLike (α ≃ β) α β where
  coe := sorry

def Equiv.symm (e : α ≃ β) : β ≃ α := sorry

end Mathlib.Logic.Equiv.Defs

section Mathlib.Data.Set.Operations

def Set.range (f : ι → α) : Set α := sorry

end Mathlib.Data.Set.Operations

section Mathlib.Data.Nat.Basic

instance instLinearOrder : LinearOrder Nat where
  le := Nat.le
  le_total := sorry
  lt := sorry
  toDecidableLE := sorry

end Mathlib.Data.Nat.Basic

section Mathlib.Algebra.Group.Hom.Defs

structure MulHom (M : Type) (N : Type) [Mul M] [Mul N] where
  toFun : M → N

infixr:25 " →ₙ* " => MulHom

end Mathlib.Algebra.Group.Hom.Defs

section Mathlib.Lean.Meta.Basic

def Lean.Meta.forallMetaTelescopeReducingUntilDefEq
    (e t : Expr) (kind : MetavarKind := MetavarKind.natural) :
    MetaM (Array Expr × Array BinderInfo × Expr) := do
  let (ms, bs, tp) ← forallMetaTelescopeReducing e (some 1) kind
  unless ms.size == 1 do
    if ms.size == 0 then throwError m!"Failed: {← ppExpr e} is not the type of a function."
    else throwError m!"Failed"
  let mut mvs := ms
  let mut bis := bs
  let mut out : Expr := tp
  while !(← isDefEq (← inferType mvs.toList.getLast!) t) do
    let (ms, bs, tp) ← forallMetaTelescopeReducing out (some 1) kind
    unless ms.size == 1 do
      throwError m!"Failed to find {← ppExpr t} as the type of a parameter of {← ppExpr e}."
    mvs := mvs ++ ms
    bis := bis ++ bs
    out := tp
  return (mvs, bis, out)

end Mathlib.Lean.Meta.Basic

section Mathlib.Algebra.Group.Subsemigroup.Defs

structure Subsemigroup (M : Type) [Mul M] where
  carrier : Set M

end Mathlib.Algebra.Group.Subsemigroup.Defs

section Batteries.Data.List.Basic

def List.prod [Mul α] [One α] (xs : List α) : α :=
  sorry

end Batteries.Data.List.Basic

section Mathlib.Tactic.Set

namespace Mathlib.Tactic

open Lean Elab Elab.Tactic Meta

syntax setArgsRest := ppSpace binderIdent (" : " term)? " := " term (" with " "← "? binderIdent)?

syntax (name := setTactic) "set" "!"? setArgsRest : tactic

macro "set!" rest:setArgsRest : tactic => `(tactic| set ! $rest:setArgsRest)

elab_rules : tactic
| `(tactic| set%$tk $[!%$rw]? $a:binderIdent $[: $ty:term]? :=
    $val:term $[with $[←%$rev]? $h:binderIdent]?) =>
  withMainContext do
    let a ← match a with
      | `(binderIdent| $a:ident) => `(ident| $a)
      | _ => `(ident| a)
    let h ← h.mapM fun h => match h with
      | `(binderIdent| $h:ident) => `(ident| $h)
      | _ => `(ident| h)
    let (ty, vale) ← match ty with
    | some ty =>
      let ty ← Term.elabType ty
      pure (ty, ← elabTermEnsuringType val ty)
    | none =>
      let val ← elabTerm val none
      pure (← inferType val, val)
    let fvar ← liftMetaTacticAux fun goal ↦ do
      let (fvar, goal) ← (← goal.define a.getId ty vale).intro1P
      pure (fvar, [goal])
    withMainContext <|
      Term.addTermInfo' (isBinder := true) a (mkFVar fvar)
    if rw.isNone then
      evalTactic (← `(tactic| try rewrite [show $(← Term.exprToSyntax vale) = $a from rfl] at *))
    match h, rev with
    | some h, some none =>
      evalTactic (← `(tactic| have%$tk
        $h : $a = ($(← Term.exprToSyntax vale) : $(← Term.exprToSyntax ty)) := rfl))
    | some h, some (some _) =>
      evalTactic (← `(tactic| have%$tk
        $h : ($(← Term.exprToSyntax vale) : $(← Term.exprToSyntax ty)) = $a := rfl))
    | _, _ => pure ()

end Mathlib.Tactic

end Mathlib.Tactic.Set

section Mathlib.Tactic.ApplyAt

open Lean Meta Elab Tactic Term

namespace Mathlib.Tactic

elab "apply " t:term " at " i:ident : tactic => withSynthesize <| withMainContext do
  let f ← elabTermForApply t
  let some ldecl := (← getLCtx).findFromUserName? i.getId
    | throwErrorAt i m!"Identifier {i} not found"
  let (mvs, bis, _) ← forallMetaTelescopeReducingUntilDefEq (← inferType f) ldecl.type
  for (m, b) in mvs.zip bis do
    if b.isInstImplicit && !(← m.mvarId!.isAssigned) then
      try m.mvarId!.inferInstance
      catch _ => continue
  let (_, mainGoal) ← (← getMainGoal).note ldecl.userName
    (← mkAppOptM' f (mvs.pop.push ldecl.toExpr |>.map some))
  let mainGoal ← mainGoal.tryClear ldecl.fvarId
  replaceMainGoal <| [mainGoal] ++ mvs.pop.toList.map (·.mvarId!)

end Mathlib.Tactic

end Mathlib.Tactic.ApplyAt

section Mathlib.Algebra.Group.Submonoid.Defs

structure Submonoid (M : Type) [MulOneClass M] extends Subsemigroup M where
  one_mem' : (1 : M) ∈ carrier

end Mathlib.Algebra.Group.Submonoid.Defs

section Mathlib.Data.Option.Basic

theorem Option.some_injective (α : Type) : Function.Injective (@some α) := sorry

end Mathlib.Data.Option.Basic

section Mathlib.Algebra.Group.Equiv.Defs

structure MulEquiv (M N : Type) [Mul M] [Mul N] extends M ≃ N, M →ₙ* N

infixl:25 " ≃* " => MulEquiv

end Mathlib.Algebra.Group.Equiv.Defs

section Mathlib.Algebra.Group.Subgroup.Defs

structure Subgroup (G : Type) [Group G] extends Submonoid G where
  inv_mem' {x} : x ∈ carrier → x⁻¹ ∈ carrier

end Mathlib.Algebra.Group.Subgroup.Defs

section Mathlib.Algebra.Quotient

class HasQuotient (A : outParam <| Type) (B : Type) where
  Quotient (A) : B → Type max u v

notation:35 G " ⧸ " H:34 => HasQuotient.Quotient G H

end Mathlib.Algebra.Quotient

section Mathlib.Data.List.Nodup

theorem List.nodup_iff_getElem?_ne_getElem? {l : List α} :
    l.Nodup ↔ ∀ i j : Nat, i < j → j < l.length → l[i]? ≠ l[j]? := sorry

end Mathlib.Data.List.Nodup

section Mathlib.Algebra.Group.Subgroup.Basic

variable {G G' G'' : Type} [Group G] [Group G'] [Group G'']

def Subgroup.normalClosure (s : Set G) : Subgroup G :=
  sorry

end Mathlib.Algebra.Group.Subgroup.Basic

section Mathlib.Data.Nat.Find

variable {m n k : Nat} {p q : Nat → Prop}

def Nat.find (H : ∃ n, p n) : Nat := sorry

end Mathlib.Data.Nat.Find

section Mathlib.LinearAlgebra.Matrix.Defs

def Matrix (m : Type u) (n : Type u') (α : Type v) : Type max u u' v :=
  m → n → α

end Mathlib.LinearAlgebra.Matrix.Defs

section Mathlib.GroupTheory.Coset.Defs

variable [Group α] (s : Subgroup α)

instance instHasQuotientSubgroup : HasQuotient α (Subgroup α) :=
  sorry

end Mathlib.GroupTheory.Coset.Defs

section Mathlib.GroupTheory.FreeGroup.Basic

def FreeGroup (α : Type) : Type :=
  sorry

namespace FreeGroup

instance : One (FreeGroup α) :=
  sorry

instance : Mul (FreeGroup α) :=
  sorry

instance : Inv (FreeGroup α) :=
  sorry

instance : Group (FreeGroup α) where

def of (x : α) : FreeGroup α :=
  sorry

end FreeGroup

end Mathlib.GroupTheory.FreeGroup.Basic

section Mathlib.GroupTheory.PresentedGroup

def PresentedGroup (rels : Set (FreeGroup α)) :=
  FreeGroup α ⧸ Subgroup.normalClosure rels

namespace PresentedGroup

def of {rels : Set (FreeGroup α)} (x : α) : PresentedGroup rels :=
  sorry

end PresentedGroup

end Mathlib.GroupTheory.PresentedGroup

section Mathlib.GroupTheory.Coxeter.Matrix

structure CoxeterMatrix (B : Type) where
  M : Matrix B B Nat

instance : CoeFun (CoxeterMatrix B) fun _ ↦ (Matrix B B Nat) := sorry

end Mathlib.GroupTheory.Coxeter.Matrix

section Mathlib.GroupTheory.Coxeter.Basic

open Function Set List

namespace CoxeterMatrix

variable {B B' : Type} (M : CoxeterMatrix B) (e : B ≃ B')

def relation (i i' : B) : FreeGroup B := (FreeGroup.of i * FreeGroup.of i') ^ M i i'

def relationsSet : Set (FreeGroup B) := range <| uncurry M.relation

protected def Group : Type := PresentedGroup M.relationsSet

instance : Group M.Group := sorry

end CoxeterMatrix

section

variable {B : Type} (M : CoxeterMatrix B)

structure CoxeterSystem (W : Type) [Group W] where
  mulEquiv : W ≃* M.Group

end

namespace CoxeterSystem

variable {W H : Type} [Group W] [Group H] {M : CoxeterMatrix B} (cs : CoxeterSystem M W)

def simple (i : B) : W := cs.mulEquiv.symm (PresentedGroup.of i)

def wordProd (ω : List B) : W := prod (map cs.simple ω)

end CoxeterSystem

end Mathlib.GroupTheory.Coxeter.Basic

section Mathlib.Data.List.GetD

namespace List

variable {α : Type} {β : Type} (l : List α) (x : α) (xs : List α) (n : Nat)

theorem getD_eq_getElem (d : α) {n : Nat} (hn : n < l.length) : l.getD n d = l[n] := sorry

end List

end Mathlib.Data.List.GetD

section Mathlib.GroupTheory.Coxeter.Length

namespace CoxeterSystem

variable {W : Type} [Group W] {M : CoxeterMatrix B} (cs : CoxeterSystem M W)

theorem exists_word_with_prod (w : W) : ∃ n ω, ω.length = n ∧ cs.wordProd ω = w := sorry

def length (w : W) : Nat := Nat.find (cs.exists_word_with_prod w)

def IsReduced (ω : List B) : Prop := cs.length (cs.wordProd ω) = ω.length

end CoxeterSystem

end Mathlib.GroupTheory.Coxeter.Length

namespace CoxeterSystem

open List

variable {W : Type} [Group W] {M : CoxeterMatrix B} (cs : CoxeterSystem M W)

local prefix:100 "s " => cs.simple

local prefix:100 "π " => cs.wordProd

def rightInvSeq (ω : List B) : List W :=
  match ω with
  | [] => []
  | i :: ω => (π ω)⁻¹ * (s i) * (π ω) :: rightInvSeq ω

local prefix:100 "ris " => cs.rightInvSeq

@[simp] theorem length_rightInvSeq (ω : List B) : (ris ω).length = ω.length := sorry

theorem getD_rightInvSeq (ω : List B) (j : Nat) :
    (ris ω).getD j 1 =
      (π (ω.drop (j + 1)))⁻¹
        * (Option.map (cs.simple) ω[j]?).getD 1
        * π (ω.drop (j + 1)) := sorry

/--
info: Try these:
  [apply] grind only [= eraseIdx_eq_take_drop_succ, = getElem?_eraseIdx, = drop_append, drop_of_length_le, drop_drop,
    = length_append, = length_take, = length_drop, = min_def, #eb5d, #6768, #deba, #48cd4027b40979de]
  [apply] grind only [= eraseIdx_eq_take_drop_succ, = getElem?_eraseIdx, = drop_append, drop_of_length_le, drop_drop,
    = length_append, = length_take, = length_drop, = min_def]
  [apply] grind =>
    instantiate only [#eb5d, = eraseIdx_eq_take_drop_succ]
    instantiate only [= getElem?_eraseIdx, = drop_append]
    instantiate only [drop_of_length_le, drop_drop, = length_append, = length_take]
    instantiate only [= length_drop, = min_def]
    cases #6768
    · cases #deba <;> mbtc <;> cases #48cd4027b40979de
    · cases #deba
---
warning: declaration uses `sorry`
-/
#guard_msgs in
theorem IsReduced.nodup_rightInvSeq {ω : List B} (rω : cs.IsReduced ω) : List.Nodup (ris ω) := by
  apply List.nodup_iff_getElem?_ne_getElem?.mpr
  intro j j' j_lt_j' j'_lt_length (dup : (rightInvSeq cs ω)[j]? = (rightInvSeq cs ω)[j']?)
  show False
  replace j'_lt_length : j' < List.length ω := by simpa using j'_lt_length
  rw [getElem?_eq_getElem (by simp; lia), getElem?_eq_getElem (by simp; lia)] at dup
  apply Option.some_injective at dup
  rw [← getD_eq_getElem _ 1, ← getD_eq_getElem _ 1] at dup
  set! t := (ris ω).getD j 1 with h₁
  set! t' := (ris (ω.eraseIdx j)).getD (j' - 1) 1 with h₂
  have h₃ : t' = (ris ω).getD j' 1 := by grind? [cs.getD_rightInvSeq, drop_of_length_le, drop_drop]
  sorry

#guard_msgs (substring := true) in
theorem IsReduced.nodup_rightInvSeq' {ω : List B} (rω : cs.IsReduced ω) : List.Nodup (ris ω) := by
  apply List.nodup_iff_getElem?_ne_getElem?.mpr
  intro j j' j_lt_j' j'_lt_length (dup : (rightInvSeq cs ω)[j]? = (rightInvSeq cs ω)[j']?)
  show False
  replace j'_lt_length : j' < List.length ω := by simpa using j'_lt_length
  rw [getElem?_eq_getElem (by simp; lia), getElem?_eq_getElem (by simp; lia)] at dup
  apply Option.some_injective at dup
  rw [← getD_eq_getElem _ 1, ← getD_eq_getElem _ 1] at dup
  set! t := (ris ω).getD j 1 with h₁
  set! t' := (ris (ω.eraseIdx j)).getD (j' - 1) 1 with h₂
  have h₃ : t' = (ris ω).getD j' 1 := by
    grind only [= eraseIdx_eq_take_drop_succ, = getElem?_eraseIdx, = drop_append, drop_of_length_le, drop_drop,
    = length_append, = length_take, = length_drop, = min_def, #eb5d, #6768, #deba, #48cd4027b40979de]
  sorry

/--
error: `grind` failed
-/
#guard_msgs (substring := true) in
theorem IsReduced.nodup_rightInvSeq'' {ω : List B} (rω : cs.IsReduced ω) : List.Nodup (ris ω) := by
  apply List.nodup_iff_getElem?_ne_getElem?.mpr
  intro j j' j_lt_j' j'_lt_length (dup : (rightInvSeq cs ω)[j]? = (rightInvSeq cs ω)[j']?)
  show False
  replace j'_lt_length : j' < List.length ω := by simpa using j'_lt_length
  rw [getElem?_eq_getElem (by simp; lia), getElem?_eq_getElem (by simp; lia)] at dup
  apply Option.some_injective at dup
  rw [← getD_eq_getElem _ 1, ← getD_eq_getElem _ 1] at dup
  set! t := (ris ω).getD j 1 with h₁
  set! t' := (ris (ω.eraseIdx j)).getD (j' - 1) 1 with h₂
  have h₃ : t' = (ris ω).getD j' 1 := by
    grind only [= eraseIdx_eq_take_drop_succ, = getElem?_eraseIdx, = drop_append, drop_of_length_le,
      drop_drop, = length_append, = length_take, = length_drop, = min_def]
  sorry

/--
error: no local theorems
-/
#guard_msgs in
theorem IsReduced.nodup_rightInvSeq''' {ω : List B} (rω : cs.IsReduced ω) : List.Nodup (ris ω) := by
  apply List.nodup_iff_getElem?_ne_getElem?.mpr
  intro j j' j_lt_j' j'_lt_length (dup : (rightInvSeq cs ω)[j]? = (rightInvSeq cs ω)[j']?)
  show False
  replace j'_lt_length : j' < List.length ω := by simpa using j'_lt_length
  rw [getElem?_eq_getElem (by simp; lia), getElem?_eq_getElem (by simp; lia)] at dup
  apply Option.some_injective at dup
  rw [← getD_eq_getElem _ 1, ← getD_eq_getElem _ 1] at dup
  set! t := (ris ω).getD j 1 with h₁
  set! t' := (ris (ω.eraseIdx j)).getD (j' - 1) 1 with h₂
  have h₃ : t' = (ris ω).getD j' 1 := by
    grind =>
      instantiate only [#eb5d, = eraseIdx_eq_take_drop_succ]
      instantiate only [= getElem?_eraseIdx, = drop_append]
      instantiate only [drop_of_length_le, drop_drop, = length_append, = length_take]
      instantiate only [= length_drop, = min_def]
      cases #6768
      · cases #deba <;> mbtc <;> cases #48cd4027b40979de
      · cases #deba
  sorry

end CoxeterSystem

```

**Comment by kim-em** [comment]
And here's the output of `lake exe minimize`:

```
import Lean.Elab.Tactic.ElabTerm

section Mathlib.Data.Set.Defs

def Set (α : Type) := α → Prop

namespace Set

instance : Membership α (Set α) :=
  sorry

end Set

end Mathlib.Data.Set.Defs

section Mathlib.Tactic.SplitIfs

namespace Mathlib.Tactic

open Lean Parser.Tactic

syntax (name := splitIfs) "split_ifs" (location)? (" with" (ppSpace colGt binderIdent)+)? : tactic

end Mathlib.Tactic

end Mathlib.Tactic.SplitIfs

section Mathlib.Data.FunLike.Basic

class DFunLike (F : Sort _) (α : outParam (Sort _)) (β : outParam <| α → Sort _) where
  coe : F → ∀ a : α, β a
  coe_injective' : Function.Injective coe

abbrev FunLike F α β := DFunLike F α fun _ => β

section Dependent

namespace DFunLike

variable {F α β} [i : DFunLike F α β]

instance hasCoeToFun : CoeFun F (fun _ ↦ ∀ a : α, β a) where
  coe := @DFunLike.coe _ _ β _

end DFunLike

end Dependent

end Mathlib.Data.FunLike.Basic

section Mathlib.Order.Defs.PartialOrder

section Preorder

class Preorder (α : Type) extends LE α, LT α where
  lt := fun a b => a ≤ b ∧ ¬b ≤ a

variable [Preorder α] {a b c : α}

theorem le_refl : ∀ a : α, a ≤ a := sorry

def decidableLTOfDecidableLE [DecidableLE α] : DecidableLT α :=
  sorry

end Preorder

section PartialOrder

class PartialOrder (α : Type) extends Preorder α where

variable [PartialOrder α] {a b : α}

theorem le_antisymm : a ≤ b → b ≤ a → a = b := sorry

def decidableEqOfDecidableLE [DecidableLE α] : DecidableEq α
  | a, b =>
    if hab : a ≤ b then
      if hba : b ≤ a then isTrue (le_antisymm hab hba) else isFalse fun heq => hba (heq ▸ le_refl _)
    else isFalse fun heq => hab (heq ▸ le_refl _)

end PartialOrder

end Mathlib.Order.Defs.PartialOrder

section Mathlib.Tactic.Use

namespace Mathlib.Tactic

open Lean Meta Elab Tactic

def applyTheConstructor (mvarId : MVarId) :
    MetaM (List MVarId × List MVarId × List MVarId) := do
  mvarId.withContext do
    mvarId.checkNotAssigned `constructor
    let target ← mvarId.getType'
    matchConstInduct target.getAppFn
      (fun _ => throwTacticEx `constructor mvarId
                  m!"target is not an inductive datatype{indentExpr target}")
      fun ival us => do
        match ival.ctors with
        | [ctor] =>
          let cinfo ← getConstInfoCtor ctor
          let ctorConst := Lean.mkConst ctor us
          let (args, binderInfos, _) ← forallMetaTelescopeReducing (← inferType ctorConst)
          let mut explicit := #[]
          let mut implicit := #[]
          let mut insts := #[]
          for arg in args, binderInfo in binderInfos, i in [0:args.size] do
            if cinfo.numParams ≤ i ∧ binderInfo.isExplicit then
              explicit := explicit.push arg.mvarId!
            else
              implicit := implicit.push arg.mvarId!
              if binderInfo.isInstImplicit then
                insts := insts.push arg.mvarId!
          let e := mkAppN ctorConst args
          let eType ← inferType e
          unless (← withAssignableSyntheticOpaque <| isDefEq eType target) do
            throwError m!"type mismatch{indentExpr e}\n{← mkHasTypeButIsExpectedMsg eType target}"
          mvarId.assign e
          return (explicit.toList, implicit.toList, insts.toList)
        | _ => throwTacticEx `constructor mvarId
                m!"target inductive type does not have exactly one constructor{indentExpr target}"

partial
def useLoop (eager : Bool) (gs : List MVarId) (args : List Term) (acc insts : List MVarId) :
    TermElabM (List MVarId × List MVarId × List MVarId) := do
  trace[tactic.use] "gs = {gs}\nargs = {args}\nacc = {acc}"
  match gs, args with
  | gs, [] =>
    return (gs, acc, insts)
  | [], arg :: _ =>
    throwErrorAt arg "too many arguments supplied to `use`"
  | g :: gs', arg :: args' => g.withContext do
    if ← g.isAssigned then
      let e ← Term.elabTermEnsuringType arg (← g.getType)
      unless ← isDefEq e (.mvar g) do
        throwErrorAt arg
          "argument is not definitionally equal to inferred value{indentExpr (.mvar g)}"
      return ← useLoop eager gs' args' acc insts
    let refineArg ← `(tactic| refine ($arg : $(← Term.exprToSyntax (← g.getType))))
    if eager then
      if let some newGoals ← observing? (run g do withoutRecover <| evalTactic refineArg) then
        return ← useLoop eager gs' args' (acc ++ newGoals) insts
    if eager || gs'.isEmpty then
      if let some (expl, impl, insts') ← observing? do
                try applyTheConstructor g
                catch e => trace[tactic.use] "Constructor. {e.toMessageData}"; throw e then
        trace[tactic.use] "expl.length = {expl.length}, impl.length = {impl.length}"
        return ← useLoop eager (expl ++ gs') args (acc ++ impl) (insts ++ insts')
    let newGoals ← run g do evalTactic refineArg
    useLoop eager gs' args' (acc ++ newGoals) insts

def runUse (eager : Bool) (discharger : TacticM Unit) (args : List Term) : TacticM Unit := do
  let egoals ← focus do
    let (egoals, acc, insts) ← useLoop eager (← getGoals) args [] []
    for inst in insts do
      if !(← inst.isAssigned) then
        discard <| inst.withContext <| observing? do inst.assign (← synthInstance (← inst.getType))
    setGoals (egoals ++ acc)
    pruneSolvedGoals
    pure egoals
  for g in egoals do
    if !(← g.isAssigned) then
      g.withContext do
        if ← isProp (← g.getType) then
          trace[tactic.use] "running discharger on {g}"
          discard <| run g discharger

syntax "use_discharger" : tactic

macro_rules | `(tactic| use_discharger) => `(tactic| apply And.intro <;> use_discharger)

macro_rules | `(tactic| use_discharger) => `(tactic| rfl)

def mkUseDischarger (discharger? : Option (TSyntax ``Parser.Tactic.discharger)) :
    TacticM (TacticM Unit) := do
  let discharger ←
    if let some disch := discharger? then
      match disch with
      | `(Parser.Tactic.discharger| ($_ := $d)) => `(tactic| ($d))
      | _ => throwUnsupportedSyntax
    else
      `(tactic| try with_reducible use_discharger)
  return evalTactic discharger

elab (name := useSyntax)
    "use" discharger?:(Parser.Tactic.discharger)? ppSpace args:term,+ : tactic => do
  runUse false (← mkUseDischarger discharger?) args.getElems.toList

end Mathlib.Tactic

end Mathlib.Tactic.Use

section Mathlib.Data.FunLike.Equiv

class EquivLike (E : Sort _) (α β : outParam (Sort _)) where
  coe : E → α → β
  inv : E → β → α
  coe_injective' : ∀ e g, coe e = coe g → inv e = inv g → e = g

namespace EquivLike

variable {E F α β γ : Sort _} [EquivLike E α β] [EquivLike F β γ]

instance toFunLike : FunLike E α β where
  coe := (coe : E → α → β)
  coe_injective' e g h :=
    sorry

end EquivLike

end Mathlib.Data.FunLike.Equiv

section Mathlib.Order.Defs.LinearOrder

section LinearOrder

macro "compareOfLessAndEq_rfl" : tactic =>
  `(tactic| (intro a b; first | rfl |
    (simp only [compare, compareOfLessAndEq]; split_ifs <;> rfl) |
    (induction a <;> induction b <;> simp +decide only)))

class LinearOrder (α : Type) extends PartialOrder α, Min α, Max α, Ord α where
  le_total (a b : α) : a ≤ b ∨ b ≤ a
  toDecidableLE : DecidableLE α
  toDecidableEq : DecidableEq α := @decidableEqOfDecidableLE _ _ toDecidableLE
  toDecidableLT : DecidableLT α := @decidableLTOfDecidableLE _ _ toDecidableLE
  min := fun a b => if a ≤ b then a else b
  max := fun a b => if a ≤ b then b else a
  min_def : ∀ a b, min a b = if a ≤ b then a else b := by intros; rfl
  max_def : ∀ a b, max a b = if a ≤ b then b else a := by intros; rfl
  compare a b := compareOfLessAndEq a b
  compare_eq_compareOfLessAndEq : ∀ a b, compare a b = compareOfLessAndEq a b := by
    compareOfLessAndEq_rfl

variable [LinearOrder α] {a b c : α}

attribute [instance 900] LinearOrder.toDecidableLE

@[grind =]
theorem min_def (a b : α) : min a b = if a ≤ b then a else b := sorry

end LinearOrder

end Mathlib.Order.Defs.LinearOrder

section Mathlib.Algebra.Group.Defs

class Semigroup (G : Type) extends Mul G where

class MulOne (M : Type) extends One M, Mul M

class MulOneClass (M : Type) extends MulOne M where

abbrev npowRecAuto {M : Type} [Semigroup M] [One M] (k : Nat) (m : M) : M :=
  npowRec k m

class Monoid (M : Type) extends Semigroup M, MulOneClass M where
  npow : Nat → M → M := npowRecAuto
  npow_zero : ∀ x, npow 0 x = 1 := by intros; rfl
  npow_succ : ∀ (n : Nat) (x), npow (n + 1) x = npow n x * x := by intros; rfl

instance Monoid.toNatPow {M : Type} [Monoid M] : Pow M Nat :=
  sorry

def zpowRec [One G] [Mul G] [Inv G] (npow : Nat → G → G := npowRec) : Int → G → G
  | Int.ofNat n, a => npow n a
  | Int.negSucc n, a => (npow n.succ a)⁻¹

def DivInvMonoid.div' {G : Type} [Monoid G] [Inv G] (a b : G) : G := a * b⁻¹

class DivInvMonoid (G : Type) extends Monoid G, Inv G, Div G where
  div := DivInvMonoid.div'
  div_eq_mul_inv : ∀ a b : G, a / b = a * b⁻¹ := by intros; rfl
  zpow : Int → G → G := zpowRec npowRec
  zpow_zero' : ∀ a : G, zpow 0 a = 1 := by intros; rfl
  zpow_succ' (n : Nat) (a : G) : zpow n.succ a = zpow n a * a := by
    intros; rfl
  zpow_neg' (n : Nat) (a : G) : zpow (Int.negSucc n) a = (zpow n.succ a)⁻¹ := by intros; rfl

class Group (G : Type) extends DivInvMonoid G where

end Mathlib.Algebra.Group.Defs

section Mathlib.Logic.Equiv.Defs

open Function

structure Equiv (α : Sort _) (β : Sort _) where
  toFun : α → β
  invFun : β → α
  left_inv : LeftInverse invFun toFun := by intro; first | rfl | ext <;> rfl
  right_inv : RightInverse invFun toFun := by intro; first | rfl | ext <;> rfl

infixl:25 " ≃ " => Equiv

namespace Equiv

instance : EquivLike (α ≃ β) α β where
  coe := sorry
  inv := sorry
  coe_injective' e₁ e₂ h₁ h₂ := sorry

def symm (e : α ≃ β) : β ≃ α := sorry

end Equiv

end Mathlib.Logic.Equiv.Defs

section Mathlib.Data.Set.Operations

namespace Set

section Range

def range (f : ι → α) : Set α := sorry

end Range

end Set

end Mathlib.Data.Set.Operations

section Mathlib.Data.Nat.Basic

namespace Nat

instance instLinearOrder : LinearOrder Nat where
  le := Nat.le
  le_total := sorry
  lt := Nat.lt
  toDecidableLT := inferInstance
  toDecidableLE := inferInstance
  toDecidableEq := inferInstance

end Nat

end Mathlib.Data.Nat.Basic

section Mathlib.Algebra.Group.Hom.Defs

section Mul

structure MulHom (M : Type) (N : Type) [Mul M] [Mul N] where
  toFun : M → N
  map_mul' : ∀ x y, toFun (x * y) = toFun x * toFun y

infixr:25 " →ₙ* " => MulHom

end Mul

end Mathlib.Algebra.Group.Hom.Defs

section Mathlib.Lean.Meta.Basic

def Lean.Meta.forallMetaTelescopeReducingUntilDefEq
    (e t : Expr) (kind : MetavarKind := MetavarKind.natural) :
    MetaM (Array Expr × Array BinderInfo × Expr) := do
  let (ms, bs, tp) ← forallMetaTelescopeReducing e (some 1) kind
  unless ms.size == 1 do
    if ms.size == 0 then throwError m!"Failed: {← ppExpr e} is not the type of a function."
    else throwError m!"Failed"
  let mut mvs := ms
  let mut bis := bs
  let mut out : Expr := tp
  while !(← isDefEq (← inferType mvs.toList.getLast!) t) do
    let (ms, bs, tp) ← forallMetaTelescopeReducing out (some 1) kind
    unless ms.size == 1 do
      throwError m!"Failed to find {← ppExpr t} as the type of a parameter of {← ppExpr e}."
    mvs := mvs ++ ms
    bis := bis ++ bs
    out := tp
  return (mvs, bis, out)

end Mathlib.Lean.Meta.Basic

section Mathlib.Algebra.Group.Subsemigroup.Defs

section NonAssoc

structure Subsemigroup (M : Type) [Mul M] where
  carrier : Set M
  mul_mem' {a b} : a ∈ carrier → b ∈ carrier → a * b ∈ carrier

end NonAssoc

end Mathlib.Algebra.Group.Subsemigroup.Defs

section Batteries.Data.List.Basic

namespace List

def prod [Mul α] [One α] (xs : List α) : α :=
  sorry

end List

end Batteries.Data.List.Basic

section Mathlib.Tactic.Set

namespace Mathlib.Tactic

open Lean Elab Elab.Tactic Meta

syntax setArgsRest := ppSpace binderIdent (" : " term)? " := " term (" with " "← "? binderIdent)?

syntax (name := setTactic) "set" "!"? setArgsRest : tactic

macro "set!" rest:setArgsRest : tactic => `(tactic| set ! $rest:setArgsRest)

elab_rules : tactic
| `(tactic| set%$tk $[!%$rw]? $a:binderIdent $[: $ty:term]? :=
    $val:term $[with $[←%$rev]? $h:binderIdent]?) =>
  withMainContext do
    let a ← match a with
      | `(binderIdent| $a:ident) => `(ident| $a)
      | _ => `(ident| a)
    let h ← h.mapM fun h => match h with
      | `(binderIdent| $h:ident) => `(ident| $h)
      | _ => `(ident| h)
    let (ty, vale) ← match ty with
    | some ty =>
      let ty ← Term.elabType ty
      pure (ty, ← elabTermEnsuringType val ty)
    | none =>
      let val ← elabTerm val none
      pure (← inferType val, val)
    let fvar ← liftMetaTacticAux fun goal ↦ do
      let (fvar, goal) ← (← goal.define a.getId ty vale).intro1P
      pure (fvar, [goal])
    withMainContext <|
      Term.addTermInfo' (isBinder := true) a (mkFVar fvar)
    if rw.isNone then
      evalTactic (← `(tactic| try rewrite [show $(← Term.exprToSyntax vale) = $a from rfl] at *))
    match h, rev with
    | some h, some none =>
      evalTactic (← `(tactic| have%$tk
        $h : $a = ($(← Term.exprToSyntax vale) : $(← Term.exprToSyntax ty)) := rfl))
    | some h, some (some _) =>
      evalTactic (← `(tactic| have%$tk
        $h : ($(← Term.exprToSyntax vale) : $(← Term.exprToSyntax ty)) = $a := rfl))
    | _, _ => pure ()

end Mathlib.Tactic

end Mathlib.Tactic.Set

section Mathlib.Tactic.ApplyAt

open Lean Meta Elab Tactic Term

namespace Mathlib.Tactic

elab "apply " t:term " at " i:ident : tactic => withSynthesize <| withMainContext do
  let f ← elabTermForApply t
  let some ldecl := (← getLCtx).findFromUserName? i.getId
    | throwErrorAt i m!"Identifier {i} not found"
  let (mvs, bis, _) ← forallMetaTelescopeReducingUntilDefEq (← inferType f) ldecl.type
  for (m, b) in mvs.zip bis do
    if b.isInstImplicit && !(← m.mvarId!.isAssigned) then
      try m.mvarId!.inferInstance
      catch _ => continue
  let (_, mainGoal) ← (← getMainGoal).note ldecl.userName
    (← mkAppOptM' f (mvs.pop.push ldecl.toExpr |>.map some))
  let mainGoal ← mainGoal.tryClear ldecl.fvarId
  replaceMainGoal <| [mainGoal] ++ mvs.pop.toList.map (·.mvarId!)

end Mathlib.Tactic

end Mathlib.Tactic.ApplyAt

section Mathlib.Algebra.Group.Submonoid.Defs

section NonAssoc

section

structure Submonoid (M : Type) [MulOneClass M] extends Subsemigroup M where
  one_mem' : (1 : M) ∈ carrier

end

end NonAssoc

end Mathlib.Algebra.Group.Submonoid.Defs

section Mathlib.Data.Option.Basic

namespace Option

theorem some_injective (α : Type) : Function.Injective (@some α) := sorry

end Option

end Mathlib.Data.Option.Basic

section Mathlib.Algebra.Group.Equiv.Defs

structure MulEquiv (M N : Type) [Mul M] [Mul N] extends M ≃ N, M →ₙ* N

infixl:25 " ≃* " => MulEquiv

end Mathlib.Algebra.Group.Equiv.Defs

section Mathlib.Algebra.Group.Subgroup.Defs

structure Subgroup (G : Type) [Group G] extends Submonoid G where
  inv_mem' {x} : x ∈ carrier → x⁻¹ ∈ carrier

end Mathlib.Algebra.Group.Subgroup.Defs

section Mathlib.Algebra.Quotient

class HasQuotient (A : outParam <| Type) (B : Type) where
  Quotient (A) : B → Type max u v

notation:35 G " ⧸ " H:34 => HasQuotient.Quotient G H

end Mathlib.Algebra.Quotient

section Mathlib.Data.List.Nodup

namespace List

theorem nodup_iff_getElem?_ne_getElem? {l : List α} :
    l.Nodup ↔ ∀ i j : Nat, i < j → j < l.length → l[i]? ≠ l[j]? := sorry

end List

end Mathlib.Data.List.Nodup

section Mathlib.Algebra.Group.Subgroup.Basic

variable {G G' G'' : Type} [Group G] [Group G'] [Group G'']

namespace Subgroup

def normalClosure (s : Set G) : Subgroup G :=
  sorry

end Subgroup

end Mathlib.Algebra.Group.Subgroup.Basic

section Mathlib.Data.Nat.Find

variable {m n k : Nat} {p q : Nat → Prop}

namespace Nat

section Find

set_option backward.privateInPublic true in
def lbp (m n : Nat) : Prop :=
  m = n + 1 ∧ ∀ k ≤ n, ¬p k

variable [DecidablePred p] (H : ∃ n, p n)

set_option backward.privateInPublic true in
def wf_lbp : WellFounded (@lbp p) :=
  ⟨let ⟨n, pn⟩ := H
    suffices ∀ m k, n ≤ k + m → Acc lbp k from fun _ => this _ _ (Nat.le_add_left _ _)
    fun m =>
    Nat.recOn m
      (fun _ kn =>
        ⟨_, fun y r =>
          match y, r with
          | _, ⟨rfl, a⟩ => absurd pn (a _ kn)⟩)
      fun m IH k kn =>
      ⟨_, fun y r =>
        match y, r with
        | _, ⟨rfl, _a⟩ => IH _ (by rw [Nat.add_right_comm]; exact kn)⟩⟩

set_option backward.privateInPublic true in
set_option backward.privateInPublic.warn false in
def findX : { n // p n ∧ ∀ m < n, ¬p m } :=
  @WellFounded.fix _ (fun k => (∀ n < k, ¬p n) → { n // p n ∧ ∀ m < n, ¬p m }) lbp (wf_lbp H)
    (fun m IH al =>
      if pm : p m then ⟨m, pm, al⟩
      else
        have : ∀ n ≤ m, ¬p n := fun n h =>
          Or.elim (Nat.lt_or_eq_of_le h) (al n) fun e => by rw [e]; exact pm
        IH _ ⟨rfl, this⟩ fun n h => this n <| Nat.le_of_succ_le_succ h)
    0 fun _ h => absurd h (Nat.not_lt_zero _)

def find : Nat :=
  (Nat.findX H).1

end Find

end Nat

end Mathlib.Data.Nat.Find

section Mathlib.LinearAlgebra.Matrix.Defs

def Matrix (m : Type u) (n : Type u') (α : Type v) : Type max u u' v :=
  m → n → α

end Mathlib.LinearAlgebra.Matrix.Defs

section Mathlib.GroupTheory.Coset.Defs

namespace QuotientGroup

variable [Group α] (s : Subgroup α)

instance instHasQuotientSubgroup : HasQuotient α (Subgroup α) :=
  sorry

end QuotientGroup

end Mathlib.GroupTheory.Coset.Defs

section Mathlib.GroupTheory.FreeGroup.Basic

def FreeGroup (α : Type) : Type :=
  sorry

namespace FreeGroup

instance : One (FreeGroup α) :=
  sorry

instance : Mul (FreeGroup α) :=
  sorry

instance : Inv (FreeGroup α) :=
  sorry

instance : Group (FreeGroup α) where

def of (x : α) : FreeGroup α :=
  sorry

end FreeGroup

end Mathlib.GroupTheory.FreeGroup.Basic

section Mathlib.LinearAlgebra.Matrix.Symmetric

namespace Matrix

def IsSymm (A : Matrix n n α) : Prop :=
  sorry

end Matrix

end Mathlib.LinearAlgebra.Matrix.Symmetric

section Mathlib.GroupTheory.PresentedGroup

def PresentedGroup (rels : Set (FreeGroup α)) :=
  FreeGroup α ⧸ Subgroup.normalClosure rels

namespace PresentedGroup

def of {rels : Set (FreeGroup α)} (x : α) : PresentedGroup rels :=
  sorry

end PresentedGroup

end Mathlib.GroupTheory.PresentedGroup

section Mathlib.GroupTheory.Coxeter.Matrix

structure CoxeterMatrix (B : Type) where
  M : Matrix B B Nat
  isSymm : M.IsSymm := by decide
  diagonal i : M i i = 1 := by decide
  off_diagonal i i' : i ≠ i' → M i i' ≠ 1 := by decide

namespace CoxeterMatrix

instance : CoeFun (CoxeterMatrix B) fun _ ↦ (Matrix B B Nat) := sorry

end CoxeterMatrix

end Mathlib.GroupTheory.Coxeter.Matrix

section Mathlib.GroupTheory.Coxeter.Basic

open Function Set List

namespace CoxeterMatrix

variable {B B' : Type} (M : CoxeterMatrix B) (e : B ≃ B')

def relation (i i' : B) : FreeGroup B := (FreeGroup.of i * FreeGroup.of i') ^ M i i'

def relationsSet : Set (FreeGroup B) := range <| uncurry M.relation

protected def Group : Type := PresentedGroup M.relationsSet

instance : Group M.Group := sorry

end CoxeterMatrix

section

variable {B : Type} (M : CoxeterMatrix B)

structure CoxeterSystem (W : Type) [Group W] where
  mulEquiv : W ≃* M.Group

end

namespace CoxeterSystem

variable {W H : Type} [Group W] [Group H]

variable {M : CoxeterMatrix B} (cs : CoxeterSystem M W)

def simple (i : B) : W := cs.mulEquiv.symm (PresentedGroup.of i)

def wordProd (ω : List B) : W := prod (map cs.simple ω)

theorem wordProd_surjective : Surjective cs.wordProd := sorry

end CoxeterSystem

end Mathlib.GroupTheory.Coxeter.Basic

section Mathlib.Data.List.GetD

namespace List

variable {α : Type} {β : Type} (l : List α) (x : α) (xs : List α) (n : Nat)

section getD

variable (d : α)

theorem getD_eq_getElem {n : Nat} (hn : n < l.length) : l.getD n d = l[n] := sorry

end getD

end List

end Mathlib.Data.List.GetD

section Mathlib.GroupTheory.Coxeter.Length

namespace CoxeterSystem

variable {W : Type} [Group W]

variable {M : CoxeterMatrix B} (cs : CoxeterSystem M W)

local prefix:100 "π " => cs.wordProd

set_option backward.privateInPublic true in
theorem exists_word_with_prod (w : W) : ∃ n ω, ω.length = n ∧ π ω = w := by
  rcases cs.wordProd_surjective w with ⟨ω, rfl⟩
  use ω.length, ω

set_option backward.privateInPublic true in
set_option backward.privateInPublic.warn false in
open scoped Classical in
noncomputable def length (w : W) : Nat := Nat.find (cs.exists_word_with_prod w)

local prefix:100 "ℓ " => cs.length

def IsReduced (ω : List B) : Prop := ℓ (π ω) = ω.length

end CoxeterSystem

end Mathlib.GroupTheory.Coxeter.Length

public section

namespace CoxeterSystem

open List

variable {W : Type} [Group W]

variable {M : CoxeterMatrix B} (cs : CoxeterSystem M W)

local prefix:100 "s " => cs.simple

local prefix:100 "π " => cs.wordProd

def rightInvSeq (ω : List B) : List W :=
  match ω with
  | [] => []
  | i :: ω => (π ω)⁻¹ * (s i) * (π ω) :: rightInvSeq ω

local prefix:100 "ris " => cs.rightInvSeq

@[simp] theorem length_rightInvSeq (ω : List B) : (ris ω).length = ω.length := sorry

theorem getD_rightInvSeq (ω : List B) (j : Nat) :
    (ris ω).getD j 1 =
      (π (ω.drop (j + 1)))⁻¹
        * (Option.map (cs.simple) ω[j]?).getD 1
        * π (ω.drop (j + 1)) := sorry

/--
info: Try these:
  [apply] grind only [= eraseIdx_eq_take_drop_succ, = getElem?_eraseIdx, = drop_append, drop_of_length_le, drop_drop,
    = length_append, = length_take, = length_drop, = min_def, #eb5d, #6768, #deba, #48cd4027b40979de]
  [apply] grind only [= eraseIdx_eq_take_drop_succ, = getElem?_eraseIdx, = drop_append, drop_of_length_le, drop_drop,
    = length_append, = length_take, = length_drop, = min_def]
  [apply] grind =>
    instantiate only [#eb5d, = eraseIdx_eq_take_drop_succ]
    instantiate only [= getElem?_eraseIdx, = drop_append]
    instantiate only [drop_of_length_le, drop_drop, = length_append, = length_take]
    instantiate only [= length_drop, = min_def]
    cases #6768
    · cases #deba <;> mbtc <;> cases #48cd4027b40979de
    · cases #deba
---
warning: declaration uses `sorry`
-/
#guard_msgs in
theorem IsReduced.nodup_rightInvSeq {ω : List B} (rω : cs.IsReduced ω) : List.Nodup (ris ω) := by
  apply List.nodup_iff_getElem?_ne_getElem?.mpr
  intro j j' j_lt_j' j'_lt_length (dup : (rightInvSeq cs ω)[j]? = (rightInvSeq cs ω)[j']?)
  show False
  replace j'_lt_length : j' < List.length ω := by simpa using j'_lt_length
  rw [getElem?_eq_getElem (by simp; lia), getElem?_eq_getElem (by simp; lia)] at dup
  apply Option.some_injective at dup
  rw [← getD_eq_getElem _ 1, ← getD_eq_getElem _ 1] at dup
  set! t := (ris ω).getD j 1 with h₁
  set! t' := (ris (ω.eraseIdx j)).getD (j' - 1) 1 with h₂
  have h₃ : t' = (ris ω).getD j' 1 := by grind? [cs.getD_rightInvSeq, drop_of_length_le, drop_drop]
  sorry

/--
error: `grind` failed
-/
#guard_msgs (substring := true) in
theorem IsReduced.nodup_rightInvSeq' {ω : List B} (rω : cs.IsReduced ω) : List.Nodup (ris ω) := by
  apply List.nodup_iff_getElem?_ne_getElem?.mpr
  intro j j' j_lt_j' j'_lt_length (dup : (rightInvSeq cs ω)[j]? = (rightInvSeq cs ω)[j']?)
  show False
  replace j'_lt_length : j' < List.length ω := by simpa using j'_lt_length
  rw [getElem?_eq_getElem (by simp; lia), getElem?_eq_getElem (by simp; lia)] at dup
  apply Option.some_injective at dup
  rw [← getD_eq_getElem _ 1, ← getD_eq_getElem _ 1] at dup
  set! t := (ris ω).getD j 1 with h₁
  set! t' := (ris (ω.eraseIdx j)).getD (j' - 1) 1 with h₂
  have h₃ : t' = (ris ω).getD j' 1 := by
    grind only [= eraseIdx_eq_take_drop_succ, = getElem?_eraseIdx, = drop_append, drop_of_length_le,
      drop_drop, = length_append, = length_take, = length_drop, = min_def]
  sorry

end CoxeterSystem
```
